US04021479
A mixture of 9 gm (0.03 mol) of ethyl 4-(2'-fluoro-4-biphenylyl)-4-oxo-butyrate, 150 ml of absolute isopropanol and 6.2 gm (0.03 mol) of freshly distilled aluminum isopropylate was refluxed on a boiling water bath, while condensing the vapors in a descending condenser, until no more acetone was detectable in the distillate. After removing the solvent in vacuo, the residue was covered with ether, the mixture was acidified with dilute hydrochloric acid, and the ethereal phase was separated, washed with sodium bicarbonate and water. After distilling off the solvent, the solid residue was recrystallized from cyclohexane, to yield 6 gm (78% of theory) of colorless γ-(2'-fluoro-4-biphenylyl)-γ-butyrolactone, m.p. 74°-75° C.

reactant | ethyl 4-(2'-fluoro-4-biphenylyl)-4-oxo-butyrate | 0.03 mol, 9 gm | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)OCC)=O | C18H17FO3
reactant | isopropanol | 150 ml | C(C)(C)O | C3H8O
reactant | aluminum isopropylate | CC(C)[O-].CC(C)[O-].CC(C)[O-].[Al+3]
solvent | acetone | CC(=O)C | C3H6O
product | γ-(2'-fluoro-4-biphenylyl)-γ-butyrolactone | 6 gm, 78% | FC1=C(C=CC=C1)C1=CC=C(C=C1)C1CCC(=O)O1 | C16H13FO2
